US08859591B2
Methyl 3-(6-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)butylamino)nicotinamido)propanoate (50 mg, 0.099 mmol) was dissolved in water (5 mL) and tetrahydrofuran (5 mL). Lithium hydroxide (0.387 mL, 2N in water, 0.774 mmol) was added. The mixture was stirred at room temperature for 2 hours. The mixture was neutralized with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. Purification by HPLC (column: Boston Analytics Symmetrix ODS-H 150×30 mm, 5 μm; modifier: formic acid 0.225%; gradient 10 to 80% acetonitrile in water) gave (+/−)-3-(6-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)butylamino)nicotinamido)propanoic acid (25 mg, 52%). 1H NMR (400 MHz, CD3OD, δ): 8.70 (s, 1H), 8.40 (s, 1H), 7.97 (s, 1H), 7.82 (d, 1H), 7.74 (d, 2H), 7.53 (d, 2H), 6.59 (d, 1H), 5.12-5.02 (m, 1H), 3.57 (m, 2H), 2.59 (m, 2H), 1.89-1.69 (m, 2H), 1.68-1.58 (m, 1H), 1.02 (d, 3H), 0.98 (d, 3H). MS (M+1): 490.5.

reactant | Methyl 3-(6-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)butylamino)nicotinamido)propanoate | 0.099 mmol, 50 mg | CC(CC(C1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)NC1=NC=C(C(=O)NCCC(=O)OC)C=C1)C | C25H28F3N5O3
reactant | Lithium hydroxide | 0.774 mmol, 2N, 0.387 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (+/−)-3-(6-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)butylamino)nicotinamido)propanoic acid | 25 mg, 52% | CC(CC(C1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)NC1=NC=C(C(=O)NCCC(=O)O)C=C1)C | C24H26F3N5O3
